US09315521B2
Ethyl 2-bromo-4-chloropyridine-3-carboxylate (1 g, 3.78 mmol) was dissolved in anhydrous dioxane (30 mL). A solution of diisopropyl zinc (4.5 mL, 4.54 mmol, 1.0 M in toluene) was added dropwise, followed with (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (44 mg, 60 μmol). The mixture was heated at 40° C. overnight, and water followed with 1 N HCl was added. The reaction mixture was extracted 3 times with ethyl acetate, and the combined organic phases were washed with brine and dried over sodium sulfate. After evaporation, the residue was dissolved in DCM and purified on silica gel using 0-15% hexane/ethyl acetate to afford ethyl 4-chloro-2-(propan-2-yl)pyridine-3-carboxylate (428 mg, 50% yield).

reactant | Ethyl 2-bromo-4-chloropyridine-3-carboxylate | 3.78 mmol, 1 g | BrC1=NC=CC(=C1C(=O)OCC)Cl | C8H7BrClNO2
reactant | diisopropyl zinc | 4.54 mmol, 1.0 M, 4.5 mL | C(C)(C)[Zn]C(C)C
reactant | water | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-chloro-2-(propan-2-yl)pyridine-3-carboxylate | 428 mg, 50% yield | ClC1=C(C(=NC=C1)C(C)C)C(=O)OCC | C11H14ClNO2
